US06458968B2
A mixture of 4 cyanobenzoic acid (1.47 g), benzyl mercaptan (1.24 g) and phosphorus pentasulfide (4.44 g) in toluene (40 ml) was refluxed for 20 h. A dark red color was developed immediately after heating. After the reaction was complete (as monitored by GC-MS), it was cooled to room temperature and purified by a column chromatography packed with neutral alumina, eluting with benzene. Removal of the solvent by distillation gave the single compound, benzyl-4-cyanodithiobenzoate (1.15 g, 43%). It was further characterized by 1H and 13C-NMR.

reactant | cyanobenzoic acid | 1.47 g | C(#N)C1=C(C(=O)O)C=CC=C1 | C8H5NO2
reactant | benzyl mercaptan | 1.24 g | C(C1=CC=CC=C1)S | C7H8S
reactant | phosphorus pentasulfide | 4.44 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl-4-cyanodithiobenzoate | 1.15 g, 43% | C(C1=CC=CC=C1)SC(C1=CC=C(C=C1)C#N)=S | C15H11NS2
